US07923456B2
Step 4: 2-Chloro-6-hydroxymethyl-nicotinic acid methyl ester
A cold (0° C.) suspension of calcium chloride (19.54 g, 176 mmol) and sodium borohydride (4.18 g, 110 mmol) in anhydrous ethanol (176 mL) and anhydrous THF (88 mL) was stirred for 1 hour, after which 6-chloro-pyridine-2,5-dicarboxylic acid dimethyl ester (9.97 g, 44 mmol) was added. After stirring at 0° C. for a further 6 hours, the reaction was quenched by the addition of H2SO4 (35 mL, 5M). The reaction mixture was diluted with ethyl acetate and filtered through Celite®. The filtrate was washed with 1M NaOH, water and brine, the organic phase was isolated, dried (Na2SO4), filtered and concentrated in vacuo. The resultant residue was subjected to flash chromatography (Si-PPC, gradient 0% to 100%, ethyl acetate in hexane) to afford the title compound as a yellow oil (6.14 g, 69%). LCMS (method B): RT=2.34 min, [M+H]+=202.

reactant | calcium chloride | 176 mmol, 19.54 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 110 mmol, 4.18 g | [BH4-].[Na+]
reactant | 6-chloro-pyridine-2,5-dicarboxylic acid dimethyl ester | 44 mmol, 9.97 g | COC(=O)C1=NC(=C(C=C1)C(=O)OC)Cl | C9H8ClNO4
solvent | ethanol | 176 mL | C(C)O | C2H6O
solvent | THF | 88 mL | C1CCOC1 | C4H8O
product | 2-Chloro-6-hydroxymethyl-nicotinic acid methyl ester | 6.14 g, 69% | COC(C1=C(N=C(C=C1)CO)Cl)=O | C8H8ClNO3
